US04174397
(a) 2-Bromo-5-chloro-1-indanone
A solution of 37.9 g (0.237 mole) of bromine in 120 ml of glacial acetic acid is slowly added dropwise, whilst stirring, to a solution of 40.0 g (0.237 mole) of 5-chloro-1-indanone in 590 ml of glacial acetic acid, to which 0.2 ml of 48% strength aqueous hydrobromic acid has been added. The mixture is stirred for a further 2 hours and the reaction solution is poured into 1 l of water, to which 2.5 g of NaHSO3 have been added. The product, which initially precipitates in the viscous form, becomes crystalline after stirring for a relatively long time. The crude product is filtered off (melting point 69°-76° C.), washed with water and recrystallized from petroleum ether. The pure 2-bromo-5-chloro-1-indanone melts at 89°-90° C.

reactant | bromine | 0.237 mole, 37.9 g | BrBr | Br2
reactant | 5-chloro-1-indanone | 0.237 mole, 40.0 g | ClC=1C=C2CCC(C2=CC1)=O | C9H7ClO
reactant | hydrobromic acid | Br | BrH
reactant | NaHSO3 | 2.5 g | OS(=O)[O-].[Na+]
solvent | acetic acid | 120 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 590 ml | C(C)(=O)O | C2H4O2
solvent | water | 1 l | O | H2O
product | 2-Bromo-5-chloro-1-indanone | BrC1C(C2=CC=C(C=C2C1)Cl)=O | C9H6BrClO
